US05925667
1-ethyl-2-(2-prenyloxynicotinoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2-prenyloxynicotinic acid (1.00 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.63 g), thereby yielding 1.41 g (92%) of the aimed compound.

reactant | 2-prenyloxynicotinic acid | 1.00 g | C(C=C(C)C)OC1=C(C(=O)O)C=CC=N1 | C11H13NO3
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.63 g | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2-prenyloxynicotinoylaminomethyl)pyrrolidine | 1.41 g, 92% | C(C)N1C(CCC1)CNC(C1=C(N=CC=C1)OCC=C(C)C)=O | C18H27N3O2
